US06828446B2
2-{[(6-chloro-4H-1,3-benzodioxin-8-yl)methyl]thio}aniline hydrochloride
2-aminothiophenol (1.25 g, 10 mmol), 6-chloro-8-(chloromethyl)-4H-1,3-benzodioxine (2.17 g, 10 mmol) and potassium carbonate (4.10 g, 30 mmol) were combined in absolute ethanol (100 mL) and stirred 18 h. Dilute with ethyl acetate and wash with saturated sodium bicarbonate solution then brine. The solution was dried over sodium sulfate and the solvent removed in vacuo. The residue was dissolved in methanol and treated with MP BH4− resin (Argonaut 3.16 mmol/g) and potassium carbonate for 48 h. The mixture was filtered and the solvent removed in vacuo. The resulting oil was dissolved in dichloromethane and passed through a 5 g plug of silica gel. The solvent was removed in vacuo and the residue was precipitated from diethyl ether with a solution of hydrogen chloride in dioxane to give the product as an off white powder, 2.52 g (74%). MS (ESI+) for C15H14ClNO2S m/z 308 (M+H)+.

reactant | 2-aminothiophenol | 10 mmol, 1.25 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | 6-chloro-8-(chloromethyl)-4H-1,3-benzodioxine | 10 mmol, 2.17 g | ClC1=CC2=C(OCOC2)C(=C1)CCl | C9H8Cl2O2
reactant | potassium carbonate | 30 mmol, 4.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{[(6-chloro-4H-1,3-benzodioxin-8-yl)methyl]thio}aniline hydrochloride | Cl.ClC1=CC2=C(OCOC2)C(=C1)CSC1=C(N)C=CC=C1 | InChI=1S/C15H14ClNO2S.ClH/c16-12-5-10-7-18-9-19-15(10)11(6-12)8-20-14-4-2-1-3-13(14)17;/h1-6H,7-9,17H2;1H
